US06930120B2
2-(3-Fluoro-phenoxy)-2-methyl-3-{4-[2-(5-methyl-2-cyclohexyl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid
The title compound was prepared from 2-(3-fluoro-phenoxy)-3-(4-hydroxyphenyl)-2-methyl-propionic acid ethyl ester and toluene-4-sulfonic acid 2-(2-cyclohexyl-5-methyloxazol-4-yl)-ethyl ester according to the method of Example 21.

reactant | 2-(3-fluoro-phenoxy)-3-(4-hydroxyphenyl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=CC(=CC=C1)F)=O | C18H19FO4
reactant | toluene-4-sulfonic acid 2-(2-cyclohexyl-5-methyloxazol-4-yl)-ethyl ester | C1(CCCCC1)C=1OC(=C(N1)CCOS(=O)(=O)C1=CC=C(C=C1)C)C | C19H25NO4S
product | 2-(3-Fluoro-phenoxy)-2-methyl-3-{4-[2-(5-methyl-2-cyclohexyl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid | FC=1C=C(OC(C(=O)O)(CC2=CC=C(C=C2)OCCC=2N=C(OC2C)C2CCCCC2)C)C=CC1 | C28H32FNO5
